US04018931
N-Methyl-N'-[ 2(2-pyrimidylmethylthio)ethyl]urea
By the procedure of Example 24, 2-[(2-aminoethyl)thiomethyl]pyrimidine is reacted with methyl isocyanate to give the title compound.

reactant | 2-[(2-aminoethyl)thiomethyl]pyrimidine | NCCSCC1=NC=CC=N1 | C7H11N3S
reactant | methyl isocyanate | CN=C=O | C2H3NO
product | N-Methyl-N'-[ 2(2-pyrimidylmethylthio)ethyl]urea | CNC(=O)NCCSCC1=NC=CC=N1 | C9H14N4OS
